US09024018B2
N-(2,2-Dimethoxyethyl)-3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide hydroidide
Aminoacetaldehyde dimethyl acetal (68 μL, 0.624 mmol) was added to a suspension of methyl 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide (200 mg, 0.568 mmol) in acetonitrile (8 mL) and the mixture was stirred overnight. The precipitate, which formed during the reaction, was filtered and washed successively with water, acetonitrile, ethyl acetate and diethyl ether to give the title product as a bright yellow solid (92 mg, 58%). δH (DMSO-d6): 9.50 (3H, bs), 9.17 (1H, s), 4.69-4.71 (1H, t, J=5.3), 3.95 (3H, s), 3.70-3.72 (2H, d, J=5.3), 3.37 (6H, s).

reactant | Aminoacetaldehyde dimethyl acetal | 0.624 mmol, 68 μL | COC(CN)OC | C4H11NO2
reactant | methyl 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide | 0.568 mmol, 200 mg | I.CN1N=NC=2N(C1=O)C=NC2C(=N)SC
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | N-(2,2-Dimethoxyethyl)-3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide | 92 mg, 58% | COC(CNC(=N)C=1N=CN2C1N=NN(C2=O)C)OC | C10H15N7O3
